US05665760
A mixture of 1-[[2-(diethylamino)ethyl]amino]-7-methoxy-9-oxothioxanthen-4-carboxaldehyde (3.6 g, 0.0094 mol), formamide (48 mL) and formic acid (6 mL) was heated to 170° C. under N2 for 8 hours. The mixture was poured into ice-water, basified with 35% NaOH and extracted with chloroform. The organic layer was separated, washed with water (2x), then brine and was dried over Na2SO4 and concentrated in vacuo to afford 3.88 g of N-[[1-[[2-(diethylamino)ethyl]amino]-7-methoxy-9-oxothioxanthen-4-yl]methyl]-N-methylformamide.

reactant | 1-[[2-(diethylamino)ethyl]amino]-7-methoxy-9-oxothioxanthen-4-carboxaldehyde | 0.0094 mol, 3.6 g | C(C)N(CCNC1=CC=C(C=2SC3=CC=C(C=C3C(C12)=O)OC)C=O)CC | C21H24N2O3S
reactant | formamide | 48 mL | C(=O)N | CH3NO
reactant | NaOH | [OH-].[Na+]
reactant | formic acid | 6 mL | C(=O)O | CH2O2
product | N-[[1-[[2-(diethylamino)ethyl]amino]-7-methoxy-9-oxothioxanthen-4-yl]methyl]-N-methylformamide | 3.88 g | C(C)N(CCNC1=CC=C(C=2SC3=CC=C(C=C3C(C12)=O)OC)CN(C=O)C)CC | C23H29N3O3S
